* Schematics Netlist *



R_R2         $N_0002 $N_0001  728  
L_L1         0 $N_0002  100m  
C_C1         0 $N_0001  62.5n  
R_R1         $N_0003 $N_0001  1k  
V_V1         $N_0003 0  
+SIN 0 15 1646.3 0 0 90
